US07053089B2
2-(5-Methylthien-2-yl)cyclopropanecarboxylic acid
To a solution of tert-butyl 2-(5-methylthien-2-yl)cyclopropanecarboxylate (100 mg, 0.42 mmol) in CH2Cl2 (3 mL) at RT was added trifluoroacetic acid (1 mL). The reaction mixture was stirred at RT for 10 min and concentrated in vacuo. The crude 2-(5-methylthien-2-yl)cyclopropanecarboxylic acid was used without further purification. M.S. (M+1) 182

reactant | tert-butyl 2-(5-methylthien-2-yl)cyclopropanecarboxylate | 0.42 mmol, 100 mg | CC1=CC=C(S1)C1C(C1)C(=O)OC(C)(C)C | C13H18O2S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-(5-Methylthien-2-yl)cyclopropanecarboxylic acid | CC1=CC=C(S1)C1C(C1)C(=O)O | C9H10O2S
